US07863444B2
A solution of tert-butyl N-[5-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-pyridyl]carbamate (0.13 g, 0.315 mmol) in dichloromethane (5.5 ml) was cooled to 0° C. then treated with trifluoroacetic acid (0.6 ml). The solution was stirred at 0° C. for 5 minutes then warmed to ambient temperature and stirred for a further 18 hours. The solvents were evaporated under reduced pressure then the residue was partitioned between dichloromethane (30 ml) and saturated aqueous sodium bicarbonate (10 ml). The organic solution was dried over magnesium sulfate filtered and the filtrate evaporated under reduced pressure to give 5-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-pyridinamine (92 mg): RP-HPLC (Hypersil HyPurity Elite C18, 5 μm, 200 A, 250×4.6 mm; 25-100% acetonitrile-0.1 M ammonium acetate over 25 min, 1 ml/min) tr=10.73 min; MS: MH+314.

reactant | tert-butyl N-[5-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-pyridyl]carbamate | 0.315 mmol, 0.13 g | ClC=1C2=C(N=CN1)N(C=C2C=2C=CC(=NC2)NC(OC(C)(C)C)=O)C2CCCC2 | C21H24ClN5O2
reactant | trifluoroacetic acid | 0.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.5 ml | ClCCl | CH2Cl2
product | 5-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-pyridinamine | 92 mg | ClC=1C2=C(N=CN1)N(C=C2C=2C=CC(=NC2)N)C2CCCC2 | C16H16ClN5
